US05455252
4-benzyl-2-bromo-aniline and 3-nitrobenzene boronic acid were combined to form 4-benzyl-2-(3-nitrophenyl)aniline,

reactant | 4-benzyl-2-bromo-aniline | C(C1=CC=CC=C1)C1=CC(=C(N)C=C1)Br | C13H12BrN
reactant | 3-nitrobenzene boronic acid | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
product | 4-benzyl-2-(3-nitrophenyl)aniline | C(C1=CC=CC=C1)C1=CC(=C(N)C=C1)C1=CC(=CC=C1)[N+](=O)[O-] | C19H16N2O2
